US07230011B2
4-Aminobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester
A mixture of 4-nitrobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester (800 mg, 1.92 mmol) and 5% palladium on carbon (230 mg) in ethanol (100 mL) was hydrogenated at atmospheric pressure at ambient temperature for 1 h. The reaction mixture was filtered and concentrated under reduced pressure. The crude product was purified by flash chromatography (silica gel, 10, 11, 12, 15% 2M ammonia in methanol/methylene chloride) to give 580 mg (78%) of homogeneous product as a yellow oil that crystallized upon standing: mp=217-219° C. dec; MS(m/e): 386 (M+1), 384 (M−1); Calculated for C20H23N3O3S: C, 62.32; H, 6.01; N, 10.90. Found: C, 62.30; H, 5.91; N, 10.69.

reactant | 4-nitrobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 1.92 mmol, 800 mg | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C20H21N3O5S
catalyst | palladium on carbon | 230 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-Aminobenzenesulfonic acid 3-(1-methylpiperidin-4-yl)-1H-indol-5-yl ester | 580 mg, 78% | CN1CCC(CC1)C1=CNC2=CC=C(C=C12)OS(=O)(=O)C1=CC=C(C=C1)N | C20H23N3O3S
